US07790751B2
A suspension of 4-[4-amino-3-(1-naphthylsulfonylmethyl)phenoxy]piperidin-1-ylcarboxylic acid benzyl ester (3.2 g, 6.0 mmol) in ethanol and 1.0 N HCl (155 mL) was heated to aid dissolution, treated slowly with sodium nitrite (0.67 g, 9.7 mmol) in water, stirred at ambient temperatures for one hour, basified with solid sodium carbonate, stirred at ambient temperature for 1 hour and concentrated in vacuo. The resultant residue was partitioned in ethyl acetate and brine. The phases were separated; the organic phase was dried over anhydrous magnesium sulfate and concentrated in vacuo. This residue was purified by flash chromatography with 35-40% ethyl acetate in hexane and 100% ethyl acetate to give 4-[3-(1-naphthylsulfonyl)-1H-indazol-5-yloxy]piperidin-1-ylcarboxylic acid benzyl ester as a light orange foam, 1.79 g (55.9% yield), Mass spectrum (+EI, [M+H]+) m/z 542. 1HNMR (500 MHz, DMSO-d6): δ14.07 (s, 1H), 8.71-8.73 (m, 1H), 8.55 (dd, 1H, J=7.45 Hz and 1.22 Hz), 8.26 (d, 1H, J=8.29 Hz), 8.01-8.03 (m, 1H), 7.70-7.74 (m, 1H), 7.51-7.62 (m, 3H), 7.27-7.35 (m, 5H), 7.23 (d, 1H, J=2.20 Hz), 7.09 (dd, 1H, J=9.03 Hz and 2.32 Hz), 5.06 (s, 2H), 4.59-4.61 (m, 1H), 3.63-3.72 (m, 2H), 3.29-3.33 (m, 2H), 1.83-1.88 (m, 2H), 1.50-1.55 ppm (m, 2H

reactant | 4-[4-amino-3-(1-naphthylsulfonylmethyl)phenoxy]piperidin-1-ylcarboxylic acid benzyl ester | 6.0 mmol, 3.2 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)N)CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C30H30N2O5S
reactant | sodium nitrite | 9.7 mmol, 0.67 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | HCl | 1.0 N, 155 mL | Cl | ClH
solvent | water | O | H2O
product | 4-[3-(1-naphthylsulfonyl)-1H-indazol-5-yloxy]piperidin-1-ylcarboxylic acid benzyl ester | 55.9% yield | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC=1C=C2C(=NNC2=CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C30H27N3O5S
